US07842688B2
e) 3-Methoxy-N-[2-methyl-5-(tetrahydropyran-2-yloxymethyl)phenyl]propionamide
Analogously to Example 116b, 4.95 g of 2-methyl-5-(tetrahydropyran-2-yloxymethyl)phenylamine and 3.27 g of 3-methoxypropionyl chloride are reacted. The title compound is obtained as a white solid. Rf=0.33 (2:1 EtOAc-heptane); Rt=3.60.

reactant | 2-methyl-5-(tetrahydropyran-2-yloxymethyl)phenylamine | 4.95 g | CC1=C(C=C(C=C1)COC1OCCCC1)N | C13H19NO2
reactant | 3-methoxypropionyl chloride | 3.27 g | COCCC(=O)Cl | C4H7ClO2
product | 3-Methoxy-N-[2-methyl-5-(tetrahydropyran-2-yloxymethyl)phenyl]propionamide | COCCC(=O)NC1=C(C=CC(=C1)COC1OCCCC1)C | C17H25NO4
